US04532271
A benzyl ether-type phenolic resin was prepared in a known method by the condensation reaction of 470 kg of phenol and 479 kg of 47% formalin in the presence of lead naphthenate as the catalyst followed by the removal of the unreacted phenol and formaldehyde as well as water and the like volatile matter under reduced pressure with heating up to a maximum temperature of 130° C. The thus obtained phenolic resin was solid at room temperature and had a softening point of 60° C.

reactant | phenol | 470 kg | C1(=CC=CC=C1)O | C6H6O
reactant | formalin | 479 kg | C=O | CH2O
reactant | lead naphthenate | C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].[Pb+2]
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
